US07678798B2
t-Butyl 4-{(3S)-4-[(1R,2R)-2-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate
tert-Butyl 4-{(3S)-4-[(1R,2R)-2-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate [(1R)-7,7-dimethyl-2-oxobicyclo [2.2.1]hept-1-yl]methanesulfonic acid salt (512 g, 0.701 mol) was dissolved in 1 M aqueous sodium hydroxide (1 L), and the solution was extracted with methylene chloride (2×2 L). The combined organic layers were dried over magnesium sulfate and concentrated. The residue was further dried under high vacuum to give off-white foamy solid (346 g. 99.1%). MS (EI) 498.2 (M+1).

reactant | tert-Butyl 4-{(3S)-4-[(1R,2R)-2-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate [(1R)-7,7-dimethyl-2-oxobicyclo [2.2.1]hept-1-yl]methanesulfonic acid salt | 0.701 mol, 512 g | CC1([C@]2(C(CC1CC2)=O)CS(=O)(=O)O)C.O[C@H]2[C@@H](C1=CC=C(C=C1C2)C(F)(F)F)N2[C@H](CN(CC2)C2(CCN(CC2)C(=O)OC(C)(C)C)C)C
solvent | sodium hydroxide | 1 M, 1 L | [OH-].[Na+]
product | t-Butyl 4-{(3S)-4-[(1R,2R)-2-hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | O[C@H]1[C@@H](C2=CC=C(C=C2C1)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C26H38F3N3O3
